US07449466B2
Production Example 10 was repeated except that 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine was replaced with 1-(4-cyclohexylbutyl)-4-(2,5-difluoro-4-methoxyphenyl)-piperazine (482 mg). The resulting crude product was purified on TLC (developer, chloroform: methanol=16:1) to provide 4-[4-(4-cyclohexylbutyl)piperazin-1-yl]-2,5-difluorophenol (128 mg).

reactant | 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine | COC1=C(C=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)C | C20H26N2O
reactant | 1-(4-cyclohexylbutyl)-4-(2,5-difluoro-4-methoxyphenyl)-piperazine | 482 mg | C1(CCCCC1)CCCCN1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F | C21H32F2N2O
product | 4-[4-(4-cyclohexylbutyl)piperazin-1-yl]-2,5-difluorophenol | 128 mg | C1(CCCCC1)CCCCN1CCN(CC1)C1=CC(=C(C=C1F)O)F | C20H30F2N2O
